US06903075B1
Step A: 2-Amino-2-norbornanecarboxylic acid, methyl ester hydrochloride.
To 25 mL of methanol at 0° C. was added thionyl chloride (2.4 mL, 32 mmol). After stirring at 0° C. for 5 min, 2-amino-2-norbornanecarboxylic acid (1.0 g, 6.4 mmol) was added in one portion, and the mixture was heated at reflux for 16 h. The mixture was concentrated to give the product (1.2 g, 92%) as a white solid.

reactant | thionyl chloride | 32 mmol, 2.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-2-norbornanecarboxylic acid | 6.4 mmol, 1.0 g | NC1(C2CCC(C1)C2)C(=O)O | C8H13NO2
reactant | methanol | 25 mL | CO | CH4O
product | 2-Amino-2-norbornanecarboxylic acid, methyl ester hydrochloride | 1.2 g, 92% | Cl.NC1(C2CCC(C1)C2)C(=O)OC | InChI=1S/C9H15NO2.ClH/c1-12-8(11)9(10)5-6-2-3-7(9)4-6;/h6-7H,2-5,10H2,1H3;1H
